US05594021
N-{[3-(3,4-methylenedioxy)phenyl]thiophene-2-sulfonyl}pyrrole was prepared in the same manner as described in Example 32C using 3,4-methylenedioxyphenylboronic acid and N-(3-bromothiophene-2-sulfonyl)pyrrole. The crude product was purified by flash column chromatography on silica gel using 2% EtOAc in hexane as the eluent resulting in N-{[3-(3,4-methylenedioxy)phenyl]thiophene-2-sulfonyl}pyrrole in a 90% yield.

reactant | 3,4-methylenedioxyphenylboronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | N-(3-bromothiophene-2-sulfonyl)pyrrole | BrC1=C(SC=C1)S(=O)(=O)N1C=CC=C1 | C8H6BrNO2S2
product | N-{[3-(3,4-methylenedioxy)phenyl]thiophene-2-sulfonyl}pyrrole | 90% yield | C1OC=2C=C(C=CC2O1)C1=C(SC=C1)S(=O)(=O)N1C=CC=C1 | C15H11NO4S2
